### PR TITLE
[Merged by Bors] - feat(RingTheory): a ring is nontrivial iff it has nontrivial Krull dimension

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENat/Basic.lean [hunk 1]
```diff
@@ -688,4 +688,7 @@ lemma add_le_add_natCast_left_iff {a b : WithBot ℕ∞} {c : ℕ} : c + a ≤ c
 lemma add_le_add_one_left_iff {a b : WithBot ℕ∞} : 1 + a ≤ 1 + b ↔ a ≤ b :=
   WithBot.add_le_add_natCast_left_iff
 
+theorem ne_bot_iff_zero_le {n : WithBot ℕ∞} : n ≠ ⊥ ↔ 0 ≤ n := by
+  cases n <;> simp
```
Comment (tb65536) [inline Mathlib/Data/ENat/Basic.lean]: Does this generalize to `WithBot` on more general nonnegative types?

Comment (vlad902) [reply Mathlib/Data/ENat/Basic.lean]: Thanks for the push, it does indeed generalize.

Comment (vlad902) [reply Mathlib/Data/ENat/Basic.lean]: though now @[simp] doesn't really work so I wonder if I should add a @[simp] variant for ENat anyway.

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 2]
```diff
@@ -38,13 +38,21 @@ variable {R S : Type*} [CommSemiring R] [CommSemiring S]
...
-    ringKrullDim R = ⊥ :=
+lemma ringKrullDim_eq_bot_of_subsingleton [Subsingleton R] : ringKrullDim R = ⊥ :=
   krullDim_eq_bot
 
-lemma ringKrullDim_nonneg_of_nontrivial [Nontrivial R] :
-    0 ≤ ringKrullDim R :=
+lemma zero_le_ringKrullDim_iff_nontrivial : 0 ≤ ringKrullDim R ↔ Nontrivial R := by
+  refine ⟨fun h ↦ ?_, fun h ↦ krullDim_nonneg⟩
+  contrapose! h
+  exact WithBot.lt_coe_bot.mpr krullDim_eq_bot
```
Comment (tb65536) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:53]: Can you instead `contrapose!` immediately and then use `ringKrullDim_eq_bot_iff_subsingleton`?

Comment (vlad902) [reply Mathlib/RingTheory/KrullDimension/Basic.lean]: Yes, thanks! I did not know about `contrapose!` without a hypothesis parameter.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by faenuccio** [comment]
thanks

bors r+
